US04454120
A solution of N2 -(tert-butyloxycarbonyl)-N-(3-phenylpropyl)-D-serinamide (3.93 g.) in acetic acid saturated with hydrogen chloride (50 ml.) was stirred at room temperature for one half hour, then stripped of volatiles. The residue was purified by column chromatography on silica gel (100-200 mesh, 200 g.) using ethyl acetate-pyridine-acetic acid-water (200:54:16:30) as the eluant, affording N-(3-phenylpropyl)-D-serinamide hydrochloride (1.14 g., m.r. 97°-102° C.).

reactant | N2 (tert-butyloxycarbonyl)-N-(3-phenylpropyl)-D-serinamide | 3.93 g | N#N.C(C)(C)(C)OC(=O)N[C@H](CO)C(=O)NCCCC1=CC=CC=C1
reactant | hydrogen chloride | 50 ml | Cl | ClH
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | N-(3-phenylpropyl)-D-serinamide hydrochloride | 1.14 g | Cl.C1(=CC=CC=C1)CCCNC([C@H](N)CO)=O | InChI=1S/C12H18N2O2.ClH/c13-11(9-15)12(16)14-8-4-7-10-5-2-1-3-6-10;/h1-3,5-6,11,15H,4,7-9,13H2,(H,14,16);1H/t11-;/m1./s1
